US06399629B1
(D) N-tert-Butoxycarbonyl-trans-4-(N-tert-Butoxycarbonylaminomethyl)-L-Proline
Lithium hydroxide monohydrate (29 mg) was added to a stirred solution of trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-L-proline methyl ester (C, 204 mg) in tetrahydrofuran (1 mL)-methanol (1 mL)-water (1 mL) at 0° C. The mixture was stirred at room temperature for 4 hr. The reaction mixture was acidified with 10% citric acid and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated in vacuo to give the title compound (167 mg).

reactant | Lithium hydroxide monohydrate | 29 mg | O.[OH-].[Li+]
reactant | trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-L-proline methyl ester | 204 mg | COC([C@H]1N(C[C@@H](C1)CNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C17H30N2O6
reactant | methanol | 1 mL | CO | CH4O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | N-tert-Butoxycarbonyl-trans-4-(N-tert-Butoxycarbonylaminomethyl)-L-Proline | 167 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)CNC(=O)OC(C)(C)C | C16H28N2O6
